US09079865B2
A 5-L, 3-necked, round-bottomed flask was charged with a solution of 3,5-bis(trifluoromethyl)benzothioamide (205.65 g) in DMF (1.03 L). Hydrazine hydrate (73.2 mL, 2.0 eq.) was added dropwise and the reaction mixture was stirred at RT for 1 h. HCOOH (1.03 L) was added dropwise and the reaction mixture was refluxed at 90° C. for 3 hours. After being allowed to cool to RT, the reaction mixture was poured into saturated aqueous sodium bicarbonate solution (7 L) and extracted with EtOAc (3×1 L). The combined organic layers were washed with aqueous saturated brine (3×500 mL), dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure (35° C., 20 mmHg) to afford 180 g of crude compound. This crude material was stirred with petroleum ether (3×500 mL), filtered and dried to obtain 160 g. of 3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazole obtained as a pale yellow solid (yield: 75%).

reactant | 3,5-bis(trifluoromethyl)benzothioamide | 205.65 g | FC(C=1C=C(C(N)=S)C=C(C1)C(F)(F)F)(F)F | C9H5F6NS
reactant | Hydrazine hydrate | 73.2 mL, 2.0 eq. | O.NN
reactant | HCOOH | 1.03 L | C(=O)O | CH2O2
reactant | sodium bicarbonate | 7 L | C([O-])(O)=O.[Na+]
solvent | DMF | 1.03 L | CN(C)C=O | C3H7NO
product | 3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NNC=N1)(F)F | C10H5F6N3
